US08106077B2
6-{4-[5-Cyclopropyl-3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-1H-indazole-3-carboxylic acid
To a solution of 6-{4-[5-cyclopropyl-3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-1H-indazole-3-carboxylic acid methyl ester (0.18 g, 0.30 mmol) in a 1:1:1 mixture of THF, methanol, water (6.0 mL) is added LiOH (0.13 g, 3.0 mmol). The reaction is stirred for 18 h at room temperature. The reaction is adjusted to pH 3 with 1N HCl and extracted with EtOAc to yield the title compound (0.12 g, 70%). LC-ES/MS m/e 576.0 (M+1).

reactant | 6-{4-[5-cyclopropyl-3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-1H-indazole-3-carboxylic acid methyl ester | 0.30 mmol, 0.18 g | COC(=O)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C=C1)OCC=1N(N=NC1C1CC1)C1=C(C=CC=C1Cl)Cl)C)C(C)C | C31H29Cl2N5O3
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 3.0 mmol, 0.13 g | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | water | 6.0 mL | O | H2O
solvent | methanol | CO | CH4O
product | 6-{4-[5-Cyclopropyl-3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-1H-indazole-3-carboxylic acid | 0.12 g, 70% | C1(CC1)C1=C(N(N=N1)C1=C(C=CC=C1Cl)Cl)COC1=CC(=C(C=C1)C1=CC=C2C(=NN(C2=C1)C(C)C)C(=O)O)C | C30H27Cl2N5O3
